US04277244
First step: Preparation of 4-nitro-N-β-methoxyethyl aniline
One heats to reflux for 15 hours 0.3 mole of parachloronitrobenzene (47.35 g) in solution in 150 ml of β-methoxyethylamine. One then pours the cooled reaction mixture into 300 g of crushed ice. The intended product precipitates first in the form of a red oil which crystallizes rapidly. After recrystallization in ethanol and drying under vacuum the product melts at 86° C. Analysis gives the following results:

reactant | parachloronitrobenzene | 0.3 mole, 47.35 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | β-methoxyethylamine | 150 ml | COCCN | C3H9NO
product | 4-nitro-N-β-methoxyethyl aniline | [N+](=O)([O-])C1=CC=C(NCCOC)C=C1 | C9H12N2O3
